************************************************************************
* auCdl Netlist:
* 
* Library Name:  8_Bit_CSL_Adder
* Top Cell Name: D_flip_flop
* View Name:     schematic
* Netlisted on:  Dec 13 19:04:49 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: D_flip_flop
* Cell Name:    transmission_gate
* View Name:    schematic
************************************************************************

.SUBCKT transmission_gate CLK GND VDD tg_IN tg_OUT ~CLK
*.PININFO CLK:I tg_IN:I ~CLK:I GND:B VDD:B tg_OUT:B
Mtg1_pmos tg_OUT CLK tg_IN VDD PMOS_VTL W=160.0n L=50n m=1
MM0 tg_OUT ~CLK tg_IN GND NMOS_VTL W=100n L=50n m=1
.ENDS

************************************************************************
* Library Name: D_flip_flop
* Cell Name:    nand
* View Name:    schematic
************************************************************************

.SUBCKT nand GND NAND_A NAND_B NAND_VOUT VDD
*.PININFO NAND_A:I NAND_B:I NAND_VOUT:O GND:B VDD:B
Mnand_nmos_2 net1 NAND_B GND GND NMOS_VTL W=100n L=50n m=1
Mnand_nmos_1 NAND_VOUT NAND_A net1 GND NMOS_VTL W=100n L=50n m=1
Mnand_pmos_2 NAND_VOUT NAND_A VDD VDD PMOS_VTL W=160.0n L=50n m=1
Mnand_pmos_1 NAND_VOUT NAND_B VDD VDD PMOS_VTL W=160.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: D_flip_flop
* Cell Name:    tristate_inverter
* View Name:    schematic
************************************************************************

.SUBCKT tristate_inverter CLK GND VDD VIN VOUT ~CLK
*.PININFO CLK:I VIN:I ~CLK:I VOUT:O GND:B VDD:B
Mt_i_pmos_state_ctrl net1 ~CLK VDD VDD PMOS_VTL W=160.0n L=50n m=1
Mt_i_pmos VOUT VIN net1 VDD PMOS_VTL W=160.0n L=50n m=1
Mt_i_nmos_state_ctrl net2 CLK GND GND NMOS_VTL W=100n L=50n m=1
Mt_i_nmos VOUT VIN net2 GND NMOS_VTL W=100n L=50n m=1
.ENDS

************************************************************************
* Library Name: D_flip_flop
* Cell Name:    tristate_nand
* View Name:    schematic
************************************************************************

.SUBCKT tristate_nand CLK GND VDD t_NAND_A t_NAND_B t_NAND_VOUT ~CLK
*.PININFO CLK:I t_NAND_A:I t_NAND_B:I ~CLK:I t_NAND_VOUT:O GND:B VDD:B
Mt_nand_nmos_state_ctrl net2 ~CLK GND GND NMOS_VTL W=100n L=50n m=1
Mt_nand_nmos_2 net1 t_NAND_B net2 GND NMOS_VTL W=100n L=50n m=1
Mt_nand_nmos_1 t_NAND_VOUT t_NAND_A net1 GND NMOS_VTL W=100n L=50n m=1
Mt_nand_pmos_state_ctrl net3 CLK VDD VDD PMOS_VTL W=160.0n L=50n m=1
Mt_nand_pmos_2 t_NAND_VOUT t_NAND_A net3 VDD PMOS_VTL W=160.0n L=50n m=1
Mt_nand_pmos_1 t_NAND_VOUT t_NAND_B net3 VDD PMOS_VTL W=160.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: D_flip_flop
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter GND VDD VIN VOUT
*.PININFO VIN:I VOUT:O GND:B VDD:B
MM0 VOUT VIN VDD VDD PMOS_VTL W=160.0n L=50n m=1
MM1 VOUT VIN GND GND NMOS_VTL W=100n L=50n m=1
.ENDS

************************************************************************
* Library Name: 8_Bit_CSL_Adder
* Cell Name:    D_flip_flop
* View Name:    schematic
************************************************************************

.SUBCKT D_flip_flop CLK_MAIN D GND Q RESET VDD
*.PININFO D:I Q:O CLK_MAIN:B GND:B RESET:B VDD:B
Xtg1 CLK GND VDD net2 net1 ~CLK / transmission_gate
Xtg2 ~CLK GND VDD net6 net5 CLK / transmission_gate
Xnand GND ~RESET net1 net6 VDD / nand
Xt_i1 CLK GND VDD net6 net1 ~CLK / tristate_inverter
Xt_n CLK GND VDD net10 ~RESET net5 ~CLK / tristate_nand
X~reset GND VDD RESET ~RESET / inverter
X~clk_inv GND VDD ~CLK CLK / inverter
Xclk_inv GND VDD CLK_MAIN ~CLK / inverter
Xq_inv GND VDD net5 Q / inverter
Xinv_loopback GND VDD net5 net10 / inverter
X~d_inv GND VDD net8 net2 / inverter
Xd_inv GND VDD D net8 / inverter
.ENDS

