* File: inverter.pex.netlist.pex
* Created: Tue Sep 26 22:27:16 2023
* Program "Calibre xRC"
* Version "v2014.4_28.20"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVERTER%VIN 3 7 9 12 15
c19 15 0 0.0146445f
c20 10 0 0.00389226f
c21 9 0 0.0116904f
c22 7 0 0.0340487f
c23 3 0 0.0320621f
r24 15 16 77.0449
r25 12 15 1.49286
r26 9 16 6.5
r27 9 10 0.422157
r28 5 10 5.21812
r29 5 7 48.126
r30 1 10 5.21812
r31 1 3 48.36
.ends

.subckt PM_INVERTER%GND 1 3 5 7 22
c11 22 0 0.0212493f
c12 21 0 0.00235221f
c13 13 0 0.00365664f
c14 5 0 0.0092116f
c15 3 0 0.00962659f
c16 1 0 0.00740402f
r17 15 22 0.0418175
r18 14 21 0.160909
r19 13 22 0.160909
r20 13 14 0.542857
r21 8 21 0.0418175
r22 5 21 0.160909
r23 5 7 0.325714
r24 3 8 0.789857
r25 1 15 0.789857
.ends

.subckt PM_INVERTER%VDD 2 3 5 7 22
c13 22 0 0.0213227f
c14 21 0 0.00237837f
c15 13 0 0.00365664f
c16 5 0 0.00925082f
c17 3 0 0.012108f
c18 2 0 0.0085762f
r19 15 22 0.0418175
r20 14 21 0.160909
r21 13 22 0.160909
r22 13 14 0.542857
r23 8 21 0.0418175
r24 5 21 0.160909
r25 5 7 0.325714
r26 3 8 1.11286
r27 2 15 0.95
.ends

.subckt PM_INVERTER%VOUT 1 2 7
c7 1 0 0.0441818f
r8 2 7 2.09
r9 1 7 1.76157
.ends

