************************************************************************
* auCdl Netlist:
* 
* Library Name:  D_flip_flop
* Top Cell Name: nand
* View Name:     schematic
* Netlisted on:  Nov 16 05:40:17 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: D_flip_flop
* Cell Name:    nand
* View Name:    schematic
************************************************************************

.SUBCKT nand GND NAND_A NAND_B NAND_VOUT VDD
*.PININFO NAND_A:I NAND_B:I NAND_VOUT:O GND:B VDD:B
Mnand_nmos_2 net1 NAND_B GND GND NMOS_VTL W=100n L=50n m=1
Mnand_nmos_1 NAND_VOUT NAND_A net1 GND NMOS_VTL W=100n L=50n m=1
Mnand_pmos_2 NAND_VOUT NAND_A VDD VDD PMOS_VTL W=160.0n L=50n m=1
Mnand_pmos_1 NAND_VOUT NAND_B VDD VDD PMOS_VTL W=160.0n L=50n m=1
.ENDS

